US06323235B1
Methyl (3-(2-(diphenylmethyleneaminoxy)ethyl)-2-methylbenzofuran-7-yloxy)acetate
Sodium hydride (60%, 30 mg) was suspended in DMF (1 ml) and a solution of benzophenoneoxime (157 mg) in DMF (2 ml) was added dropwise thereto, followed by stirring the resulting mixture at room temperature for 1 hour. To this solution, a solution of methyl (3-(2-bromoethyl)-2-methylbenzofuran-7-yloxy)acetate (201 mg) in DMF (3 ml) was added dropwise and the solution was stirred at room temperature for 30 minutes. Acetic acid was added to this reaction solution and the resulting solution was added to water layer (50 ml) followed by extraction of the resultant twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=5/1) using silica gel to obtain the desired compound (177 mg, yield: 65%).

reactant | Sodium hydride | 30 mg | [H-].[Na+]
reactant | benzophenoneoxime | 157 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | methyl (3-(2-bromoethyl)-2-methylbenzofuran-7-yloxy)acetate | 201 mg | BrCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C | C14H15BrO4
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | Methyl (3-(2-(diphenylmethyleneaminoxy)ethyl)-2-methylbenzofuran-7-yloxy)acetate | 177 mg, yield: 65% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NOCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C | C27H25NO5
